US07795267B2
Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylic acid 2-phenylhydrazide
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.10 g, 0.34 mmol) in tetrahydrofuran (1 mL) were sequentially added diisopropylethylamine (0.15 mL) and bis(trichloromethyl)carbonate (0.10 g, 0.34 mmol), and the mixture was stirred at room temperature for 45 minutes. Next, phenylhydrazine (39 mg, 0.36 mmol) was added thereto, and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) and crystallized from ethyl acetate-diisopropyl ether to obtain the title compound (44 mg, yield 30%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.34 mmol, 0.10 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | diisopropylethylamine | 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(trichloromethyl)carbonate | 0.34 mmol, 0.10 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | phenylhydrazine | 0.36 mmol, 39 mg | C1(=CC=CC=C1)NN | C6H8N2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylic acid 2-phenylhydrazide | 44 mg, yield 30% | C1(=CC=CC=C1)NNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C25H24N4O3
